US09216973B2
To a solution of N,N-diisopropylamine (0.24 ml) in dry tetrahydrofuran (6 ml) stirred under argon at 0° C., was added butyl lithium (2.5M in hexane) (0.80 ml). The solution was stirred at 0° C. for 30 minutes then was cooled to −85° C. To this solution was added a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester (preparation described in, for example, EP 1,731,512) (404 mg) in dry tetrahydrofuran (3 ml). The reaction mixture was stirred at −85° C. until deprotonation was completed as monitored by thin layer chromatography. Then, to this solution was added acetaldehyde (0.14 ml) and the reaction mixture was stirred at −85° C. for 1.5 hours. The reaction was quenched by addition of aqueous ammonium chloride (saturated) at −85° C. The mixture allowed to warm to ambient temperature and was then extracted with dichloromethane. The combined organic extracts were dried over magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel (eluent: heptane/diethyl ether 60:40) to give 4-[5-(3,5-dichloro-phenyl)-4-(1-hydroxy-ethyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester (290 mg) as a white solid. 1H-NMR (CDCl3, 400 MHz): 7.98-7.96 (d, 1H), 7.60-7.45 (m, 5H), 4.09-4.08 (m, 1H), 3.96-3.91 (m, 1H), 3.91 (s, 3H), 2.63 (s, 3H), 1.07 and 0.94 (d, 3H).

reactant | N,N-diisopropylamine | 0.24 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 2.5M, 0.80 ml | C(CCC)[Li]
reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester | 404 mg | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C19H14Cl2F3NO3
reactant | acetaldehyde | 0.14 ml | C(C)=O | C2H4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-[5-(3,5-dichloro-phenyl)-4-(1-hydroxy-ethyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester | 290 mg | COC(C1=C(C=C(C=C1)C1=NOC(C1C(C)O)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C21H18Cl2F3NO4
